US07425560B2
d) 3-(2-Furyl-methyl)-2-thioxanthine
5,6-Diamino-1-(2-furyl-methyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (0.12 g, 0.51 mmol) in formic acid (0.5 mL) was stirred at ambient temperature for 0.5 h. The excess of formic acid was evaporated off and the resulting solid dissolved in 10% sodium hydroxide solution (3 mL). This solution was heated at 70° C. for 0.5 h. The reaction mixture was neutralized with 2M hydrochloric acid. The resulting precipitate was collected by filtration, washed with water, and dried. Yield: (0.047 g, 37%).

reactant | 5,6-Diamino-1-(2-furyl-methyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 0.51 mmol, 0.12 g | NC=1C(NC(N(C1N)CC=1OC=CC1)=S)=O | C9H10N4O2S
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
product | 3-(2-Furyl-methyl)-2-thioxanthine | O1C(=CC=C1)CN1C(NC(C=2NC=NC12)=O)=S | C10H8N4O2S
